US09212164B2
Step 3. (E)-N-(1-(Methoxy(2,2,2-trifluoroethyl)carbamoyl)cyclopropyl)-4-(4,4,4-trifluoro-3-(3,4,5-trichlorophenyl)but-1-en-1-yl)-2-(trifluoromethyl)benzamide
A 25 mL rb flask was charged with (E)-4-(4,4,4-trifluoro-3-(3,4,5-trichlorophenyl)but-1-en-1-yl)-2-(trifluoromethyl)benzoic acid (150 mg, 0.31 mmol) and DCE (5 mL). Thionyl chloride (41.1 mg, 0.35 mmol) was added neat in one portion and the resulting reaction mixture was heated at reflux for 1.5 h. After which time, reaction mixture was allowed to cool and concentrated to give a brown oil which was used without further purification. The crude acid chloride was taken up in anhydrous DCM (2 mL) and was added drop wise to a cold solution containing crude 1-amino-N-methoxy-N-(2,2,2-trifluoroethyl)cyclopropanecarboxamide hydrochloride (78 mg, 0.31 mmol), TEA (66.7 mg, 0.66 mmol) and DCM (10 mL). The reaction mixture was stirred at RT for 18 h. The reaction mixture was diluted with DCM and washed with 0.1N HCl, aqueous NaHCO3, dried over MgSO4, filtered and evaporated to give an oil. The residue was chromatographed on a silica gel column eluting with 10% EtOAc/hex to afford the title compound (17 mg, 8.%): 1H NMR (400 MHz, CDCl3) δ 7.66 (dd, J=14.1, 1.6 Hz, 1H), 7.59 (dd, J=8.0, 1.8 Hz, 1H), 7.53 (d, J=8.0 Hz, 1H), 7.41 (s, 2H), 6.62 (d, J=15.9 Hz, 1H), 6.53 (s, 1H), 6.44 (m, 1H), 4.29 (q, J=8.5 Hz, 2H), 4.12 (m, 1H), 3.78 (s, 3H), 1.62 (m, 2H), 1.29 (m, 2H); 19F NMR (376 MHz, CDCl3) δ −58.81, −68.59, −69.22; ESIMS m/z 671.3 ([M−H]−).

reactant | (E)-4-(4,4,4-trifluoro-3-(3,4,5-trichlorophenyl)but-1-en-1-yl)-2-(trifluoromethyl)benzoic acid | 0.31 mmol, 150 mg | FC(C(/C=C/C1=CC(=C(C(=O)O)C=C1)C(F)(F)F)C1=CC(=C(C(=C1)Cl)Cl)Cl)(F)F | C18H9Cl3F6O2
reactant | DCE | 5 mL | ClCCCl | C2H4Cl2
reactant | Thionyl chloride | 0.35 mmol, 41.1 mg | S(=O)(Cl)Cl | Cl2OS
reactant | 1-amino-N-methoxy-N-(2,2,2-trifluoroethyl)cyclopropanecarboxamide hydrochloride | 0.31 mmol, 78 mg | Cl.NC1(CC1)C(=O)N(CC(F)(F)F)OC
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | (E)-N-(1-(Methoxy(2,2,2-trifluoroethyl)carbamoyl)cyclopropyl)-4-(4,4,4-trifluoro-3-(3,4,5-trichlorophenyl)but-1-en-1-yl)-2-(trifluoromethyl)benzamide | 17 mg | CON(C(=O)C1(CC1)NC(C1=C(C=C(C=C1)\C=C\C(C(F)(F)F)C1=CC(=C(C(=C1)Cl)Cl)Cl)C(F)(F)F)=O)CC(F)(F)F | C25H18Cl3F9N2O3
